Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Something happened at PREP... they told me they
were concerned."

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
For further details surrounding history and presentation, please 
see initial ED consultation dated ___ by Dr. ___ 
as well as her admission note dated ___. 
. 
Briefly, this is a ___ single man, previously diagnosed 
with OCD, ADHD, Tourette's disorder, self-reported history of 
Asperger's disorder, recent diagnosis of psychotic disorder, 
followed at PREP, s/p numerous psychiatric hospitalization, who 
presented on a ___ from PREP due to concerns of 
decompensated psychosis.
. 
Upon initial interview, patient reported that he was brought 
here from PREP despite the fact that he did not want to come. 
Reported that people are asking in the same questions regarding 
suicidal ideation, homicidal ideation, auditory or visual 
hallucinations, and that he always says no. He then stated that 
he can actually "pick up on voices," stating that he has "déjà 
___ ___ that started off "lower" ___ years ago but has gotten 
louder. For example, he reported that a counselor at his program 
spoke to him today and that he had heard her voice 4 weeks ago 
already. He later stated that he does not hear voices that seem 
"like air around my head." He is not sure if they are talking to 
him and sometimes the words are inaudible. Denied command 
auditory hallucinations.
. 
The patient reported he spends his days going to the gym, 
library, and grocery shops when he has money. He also stated 
that he goes to ___ meet up groups." He admitted to 
decreased appetite, weight loss. When asked what he has been 
eating, the patient reported "I mostly exercise." He then 
reported that his "meals are in ___, I eat snacks." States 
he does not drink juice or other liquids, but only drinks water 
with a pH of 8.3.  Patient went on to discuss a "traumatic 
experience in the apartment" stating his downstairs neighbor is 
a ___ who plays loud music. Stated he has tried talking to his
neighbor about this but his neighbor is not respectful and 
curses, criticizes him, and is sarcastic. He states he has 
called the police who told a neighbor to stop the music because 
it was late. Patient reported having a difficult relationship 
with his mother because, "compatibility, we do not have the same 
mindset." He then went on to state that he has scientific ideas 
which "drive her crazy" and she "does not like history such as 
Aristotle." States that his mother has a "female mindset and 
communicates with the present." Mr. ___ went on to state that 
his mother wants different things for him. Patient reported his 
mood as "all right" but is affected by the PREP program. Denied
anhedonia, reported good motivation and energy. He went on to 
admit that he is able to hear everyone's internal dialogue and 
was able to "push the other people's minds" for period of 4 
months last year.
. 
Per collateral from Dr. ___, Mr. ___ 
outpatient psychiatrist, patient has been seen at PREP for first 
break psychosis, likely schizophrenia.  Mr. ___ also has a 
history of OCD and Tourette's. Only one prior psychiatric
hospitalization. Patient is currently not taking antipsychotics 
at this time as they are not vegan. In the past, patient has 
taken risperidone and Prozac but patient reported they made him 
feel blunted and so he stopped taking them.  Of note, the 
patient has been increasingly delusional, disorganized and 
paranoid,
particularly around his diet. He has lost approximately 8 pounds 
in the past several weeks with a BMI of 19.5.  Patient has 
already also been buying specialty oil from ___, putting 
them on his skin and eating them, with low poor nutritional 
intake. Patient has been swallowing gemstones and metal for
medical purposes including copper, nickel, and tiger eye. At 2 
AM had been running around ___ in a dangerous neighborhood 
with minimal clothing.
. 
Per collateral from the patient's mother, ___, 
patient has been irrational for a while but his condition has 
recently been worsening.  Patient is notably fixated on one 
thing and then takes it an extreme. For example, patient 
recently ate 7 pounds of sugar in the past 3 days, justifying 
that generally he avoids sugar completely so now he can eat 
sugar and will not do him any harm. Patient will drink only 
water for days at a time. He will also research things and has a 
justification for everything. Has been noncompliant with 
medication since the age of ___. Patient also starves himself for 
days at a time, goes on diets, uses enemas, and fasts for days 
for all sorts of reasons.  She believes he would benefit from an 
inpatient admission.
. 
ED course: patient was in adequate behavioral control and did 
not require physical or chemical restraints.
. 
On my interview with Mr. ___, who is a completely unreliable 
historian due to disorganized thought process, he stated he had 
been attending the PREP program for the past month and arrived 
to the hospital because "they told me they were concerned." Mr. 
___ could not understand what his mother or outpatient team 
would be concerned about. Stated he currently feels "good," and 
that "people were looking at resources to keep me busy. He then 
went on a tangent and stated he was born in ___ and then at 
age ___ years he went to ___ with his mother and lived in 
places in ___. Reported that about a year ago, he moved to 
___ with his mother after she decided to get a new 
job. 
. 
Mr. ___ stated that he preferred ___ "because it's al 
steam-punk here." Stated that while in ___ he has been 
finding that "everything has been making me dizzy..." Reported 
he has been having difficulty with his neighbor in his building, 
stating, "he uses criticism and sarcasm and I can't talk like 
that... he's a jerk and I didn't know that." Mr. ___ stated 
he would like to return to ___ and "get out of ___ 
and back to my friends? Do you know how many cycles of trauma 
I've been in?" Confirmed a conflictual relationship with his 
mother, stating she has an "attitude problem... she's stuck in a 
sassy state." He went on another tangent, stating he was going 
to ___ on ___. 
.
Patient alluded to telepathy, stating he uses "various gestures 
to talk to people." He discussed "clairvoyance," stating he 
picked up on a voice about "fruits and vegetables that whisper 
and then got completely wise." Then mentioned something about a 
gas. Reported good sleep, "too many hours," good energy, denied 
difficulties with concentration. When asked about appetite, he
stated, "I know there are certain products that affect organs 
and I spend my time researching them and strengthening my mind 
and body if they don't care." Patient could not clarify on what 
this meant. No visual hallucinations. 
. 
Psychiatric review of systems deferred given level of 
disorganization although patient denied alcohol or drug use. 

 
Past Medical History:
Past Psychiatric History
- Prior diagnoses: Asperger's, OCD, ADHD, Tourette's 
 - Hospitalizations: Reports 2 hospitalizations in ___ in
adolescence. Unclear of what the symptoms were at that time
 - Current treaters and treatment: PREP program, see Dr. ___ (psychiatrist) and ___ (therapist)
 - Medication and ECT trials: Risperdal, Prozac, Concerta,
Abilify, Cogentin, Zoloft, Zyprexa. Reports all of these had
"less than semi effects" and were not helpful. Reports he had
memory dysfunction with Zyprexa.  
 - Suicide attempts: denies
 - Self-injurious behavior: denies
 - Harm to others: denies
 - Access to weapons: denies

Past Medical History:
Denies
No history of seizures or head injuries.

 
Social History:
___
Family History:
- History of psychiatric disorders: denies
- History of suicide attempts/self-injurious behavior: denies
- History of substance use: denies

 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T 97.5, BP 124/86, HR 64, O2 100% RA

General: NAD. Thin male, appears stated age
HEENT: Normocephalic, atraumatic. Oropharynx clear
Neck: Supple.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema. 
Skin: Very dry. No rashes noted

NEUROLOGIC EXAMINATION:
- Cranial Nerves: PERRL, EOMI, facial sensation intact to light
touch, face symmetric on eye closure, smile, hearing grossly
intact bilaterally, phonation normal, shoulder shrug
intact/symmetric, tongue/uvula midline
- Motor: Thin extremities, normal tone. No abnormal movements,
no tremor. Full strength ___ throughout. 
- Coordination: No finger-to-nose dysmetria.
- Sensation: Grossly intact to light touch on all four
extremities  
- Gait: Steady. Normal stance and posture. No truncal ataxia.

COGNITIVE EXAM: 
- Wakefulness/alertness: awake and alert
- Attention: spells EARTH backwards correctly
- Orientation: oriented to person, time, place, situation
- Memory: ___ registration, ___ recall after 5 ___
grossly intact
- Fund of knowledge: play by ___ = "___", intact to
first president of US
- Calculations: $1.75 = "7 quarters"
- Abstraction: interprets "don't judge a book by its cover" as
"you shouldn't presume about something"
- Speech: normal rate, volume, rhythm, and tone
- Language: fluent ___

MENTAL STATUS EXAM:
- Appearance: NAD, sitting on edge of stretcher,
anxious-appearing, malodorous, poorly groomed, appears stated
age, wearing glasses and hospital gown
- Behavior: calm, cooperative with interview, appropriate eye
contact, oddly related 
- Mood and Affect: "alright but offended" / blunted 
- Thought process: linear at times, often tangential,
disorganized 
- Thought Content: Denies SI/HI. Denies current AH/VH. Reports
___ sensation of knowing what others are going to stay. +
paranoia regarding water/food. Does not appear to be responding
to internal stimuli
- Judgment and Insight: impaired/impaired 

97.9 PO 119/79 79 18 95%RA 
Appearance- Young black male, tall and thin, adequately groomed, 
wearing sweats and glasses
Behavior- Well-related, cooperative, calm, good eye contact
Mood- "Good"
Affect- Restricted, but congruent
Speech- Normal rate, volume, prosody
Thought content- concrete, linear, goal oriented 
Thought process- Linear, goal-directed
Insight/Judgment- Fair/Fair
 
Pertinent Results:
ADMISSION LABS: 
=========================================
___ 06:46PM BLOOD WBC-6.8 RBC-5.42 Hgb-14.2 Hct-42.5 
MCV-78* MCH-26.2 MCHC-33.4 RDW-13.2 RDWSD-37.3 Plt ___
___ 06:46PM BLOOD Neuts-49.7 ___ Monos-9.4 Eos-1.8 
Baso-0.9 Im ___ AbsNeut-3.37 AbsLymp-2.59 AbsMono-0.64 
AbsEos-0.12 AbsBaso-0.06

___ 06:46PM BLOOD VitB12-430
___ 06:46PM BLOOD TSH-1.3

___ 06:46PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

OTHER PERTINENT LABS:
==========================================
___ 11:20AM BLOOD ALT-10 AST-17 LD(LDH)-171 AlkPhos-89 
TotBili-0.6
___ 11:20AM BLOOD Albumin-5.0 Calcium-10.2 Phos-3.8 Mg-2.1 
Cholest-138

___ 11:20AM BLOOD Folate-8
___ 11:20AM BLOOD Triglyc-74 HDL-74 CHOL/HD-1.9 LDLcalc-49

___ 10:00AM BLOOD Glucose-88 UreaN-9 Creat-0.7 Na-138 K-4.0 
Cl-101 HCO3-29 AnGap-12
___ 10:00AM BLOOD Calcium-9.6 Phos-2.7 Mg-1.8

___ 01:10AM URINE Color-Yellow Appear-Clear Sp ___
___ 01:10AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 01:10AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MICROBIOLOGY
===============================================
___:   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

ECG
================================================
___: Sinus rhythm. Normal ECG. No previous tracing available 
for comparison.
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission,  the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___.  At that time the patient was deemed to be at 
risk of harm to self/others due to his decompensated psychosis 
in the setting of non-adherence with antipsychotics, so a 
Section ___ was filed with the ___ court. The court 
hearing was continued given his medication compliance and 
agreement for long-acting injectable antipsychotic medication. 
He was also placed on 15 minute checks status on admission and 
remained on that level of observation throughout while being 
unit restricted. ___ maintained safety on the unit and had 
no behavioral issues during his stay. 

2. PSYCHIATRIC:
#) Schizophrenia
Mr. ___ is a ___ single black man, previously 
diagnosed with OCD, ADHD, Tourette's disorder, recently 
diagnosed with psychosis, likely schizophrenia, followed by 
PREP, ___ prior psychiatric hospitalizations, no prior suicide 
attempts, who presents from PREP on a ___ due to concerns 
of decompensated psychosis in the setting of non-adherence with 
antipsychotics.

On initial interview, Mr. ___ was extremely limited given his 
level of disorganization with frequent derailment and looseness 
of associations.  However, collateral from his mother and 
outpatient treaters is concerning for worsening of psychosis 
with disorganized thought process, delusions, paranoia, and 
bizarre
behaviors with decreased appetite, approximately 90 lb weight 
loss over the past year in the setting of preoccupation with 
diet that also includes ingestion of gemstones and metals.  
Mental status examination was also concerning for negative 
symptoms of schizophrenia with patient having significantly 
blunted affect
with decreased range, disorganized thought process with frequent 
derailments, looseness of association as well as reports of 
auditory hallucinations and the believe that he is telepathic. 
Mental status examination is also notable for a profoundly poor 
insight and judgment into the circumstances that led him to his
psychiatric admission.

Diagnostically, his presentation was most concerning for a 
primary psychotic disorder
such as schizophrenia. It is unlikely that substance use is 
contributing to his presentation at this time given his denial 
of substance use and is negative tox screen.  His medical work 
up was unremarkable (RPR, B12, folate, TSH) to support a 
psychotic disorder due to medical condition. 

On admission, ___ refused his medications, refused meals, 
and did not attend group sessions. However, with significant 
encouragement and pending court date, patient agreed to a trial 
of risperidone in addition to thiamine, and multivitamin per 
nutrition recommendations. He was started on Risperidone M-Tabs 
titrated to 2 mg po bid with significant improvement in his 
mental status. Over the course of his hospitalization, he 
improved and was eating well-balanced meals with unremarkable 
laboratory examination and stable vital signs. He was noted to 
maintain medication compliance, and attending group sessions of 
supportive psychotherapy and psychoeducation. His mental status 
exam improved, with improved behavior (eye contact and 
appropriate social interactions), more linear and organized 
thought process, and absence of paranoid or odd beliefs or 
hallucinations. Notably, his insight and judgment improved. He 
agreed to his first loading dose of Invega on ___, with his 
second dose on ___. He was discharged on ___ to PREP following 
a group meeting with PREP clinicians and ___ mother, who 
agreed with the discharge plan and ongoing treatment with Invega 
Sustenna as an outpatient. Of note, Mr. ___ consistently 
denied suicidal ideation or thoughts of self harm throughout his 
psychiatric hospitalization and was noted to be able to attend 
to his ADL's independently at time of discharge. 

3. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient initially did not attend these groups. However, in the 
setting of medication compliance and improvement in his 
decompensated psychosis, he attended groups that focused on 
teaching patients various coping skills. ___ primarily kept 
to himself otherwise, exercising on the elliptical, writing in 
his journal, and completing crosswords.  

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Collateral was obtained from ___ mother, PREP clinicians, 
and BEST. His mother was involved throughout his 
hospitalization, visiting multiple times. 

#) INTERVENTIONS
- Medications:
---Paliperidone Palmitate (Invega) 234 mg IM LOADING (___)
---Paliperidone Palmitate (Invega) 117 mg IM (___)
---Risperidone 2mg BID (___)
---Risperidone 4mg QHS (___)
---Thiamine 100mg (___)
---Multivitamin
---Offered (refused to take): Paliperidone ER 6mg, Risperidone 
1mg BID: PRN anxiety/insomnia, Ativan 0.5mg Q4H: PRN 
anxiety/insomnia. 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare:  Discharged to PREP. Will be living 
with mother.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Invega Sustenna 117 mg qmo
2. Daily MVI
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia

 
Discharge Condition:
97.9   PO 119/79   79   18    95%RA 
Appearance- Young black male, tall and thin, adequately groomed, 
wearing sweats and glasses
Behavior- Well-related, cooperative, calm, good eye contact
Mood- 'Good'
Affect- Restricted, but congruent
Speech- Normal rate, volume, prosody
Thought content- concrete, linear, goal oriented 
Thought process- Linear, goal-directed
Insight/Judgment- Fair/Fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___